US06531477B1
To a stirred, cooled (0° C.) solution of 231 mg (0.5 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one and 0.14 mL (1.0 mmol) of Et3N in 4 mL of THF was added 0.063 mL (0.6 mmol) of 2-chloroethanesulfonyl chloride. The solution was stirred 1 h, warming to ambient temperature. The solution was poured into 10% aq. citric acid and extracted with EtOAc. The organic extract was washed (brine), dried (MgSO4), and concentrated under reduced pressure. The crude product was chromatographed (elution with 1:1 EtOAc-hexanes) to afford 221 mg (80%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as an off-white solid. 1H NMR (300 MHz, DMSO) δ 12.47(br. s, 1H); 9.92(br. s, 1H); 7.97(s, 2H); 7.17(d, 2H, J=8.4 Hz); 7.02(d, 2H, J=8.4 Hz); 6.69(dd, 1H, J=16.5, 9.9 Hz); 6.04(d, 1H, J=16.5 Hz); 5.96(d, 1H, J=9.9 Hz); 3.78(s, 2H); 3.18-3.32(m, 1H); 1.28(d, 6H, J=7.0 Hz).

reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.5 mmol, 231 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N)C(C)C | C21H18Cl3N5O
reactant | Et3N | 1.0 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 0.6 mmol, 0.063 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(ethenesulfonamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 221 mg, 80% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NS(=O)(=O)C=C)C(C)C | C23H20Cl3N5O3S
